US05891965
"PPAE-2" was prepared from the alkylation of 1,4-butane diol (1.25 kg, 13.9 moles) with bromopropane (0.5 kg, 4.1 moles) by addition of 50 wt-% sodium hydroxide (1 kg, 12.6 moles NaOH) at 65° C. and heating at 130° C. for two hours. The reaction mixture was cooled and methyl ethyl ketone (0.5 kg) and a 10 wt-% brine solution (1.1 kg) was added. Top phase (1.57 kg) was further washed with an additional 10 wt-% brine solution (1.1 kg). Top phase (940 g) was vacuum distilled to yield propoxybutanol (426 g, 86% yield), b.p. 112-118° C./14mm. Acetic anhydride (460 g) was added to the alcohol at 120° C. over one hour and heated at 130° C. for an additional hour. Acetic acid and excess acetic anhydride were distilled out to yield propoxy butyrate (585 g, 95% yield). The butyrate was fluorinated in perfluoromethyl morpholine using a tubular reactor described in U.S. Pat. No. 5,488,142 (Fall). After fluorination, excess methanol was added to provide methyl- 4-perfluoro-propoxybutyl acetate (604 g, 68% yield), b.p. 120-130° C. Saponification and decarboxylation was carried out by adding to the ester, sodium carbonate (23 g) and titration with sodium hydroxide (61 g) in methanol (380 g). Methanol was then removed after addition of"FC-71 FLUORINERT" electronic liquid, available from the 3M Co., St. Paul, Minn. (1.3 kg) under reduced pressure. The mixture was then heated up to 250° C. to yield perfluoropropoxyallyl ether (375 g, 75% yield), b.p. 58-62° C.

reactant | 1,4-butane diol | 13.9 moles, 1.25 kg | C(CCCO)O | C4H10O2
reactant | bromopropane | 4.1 moles, 0.5 kg | BrCCC | C3H7Br
reactant | sodium hydroxide | 12.6 moles, 1 kg | [OH-].[Na+]
reactant | methyl ethyl ketone | 0.5 kg | C(C)C(=O)C | C4H8O
solvent | brine | 1.1 kg | [Cl-].[Na+].O
product | propoxybutanol | 426 g, 86% yield | C(CC)OC(CCC)O | C7H16O2
